### PR TITLE
[Merged by Bors] - feat(RingTheory/Finiteness): relax the condition of `Module.Finite.exists_fin'`

### PR DESCRIPTION
**Pull request by acmepjz**
... from `CommSemiring R` to `Semiring R`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Finiteness.lean [hunk 1]
```diff
@@ -575,10 +575,13 @@ theorem exists_fin [Finite R M] : ∃ (n : ℕ) (s : Fin n → M), Submodule.spa
...
-    ∃ (n : ℕ) (f : (Fin n → R) →ₗ[R] M), Surjective f := by
-  have ⟨n, s, hs⟩ := exists_fin (R := R) (M := M)
-  exact ⟨n, piEquiv (Fin n) R M s, by simpa⟩
+variable (R M) in
+lemma exists_fin' [Finite R M] : ∃ (n : ℕ) (f : (Fin n → R) →ₗ[R] M), Surjective f := by
+  obtain ⟨s, hs⟩ := finite_def.1 ‹Finite R M›
+  rw [Finsupp.span_eq_range_total, LinearMap.range_eq_top] at hs
+  let i : (s.toSet →₀ R) ≃ₗ[R] (Fin s.card → R) :=
+    Finsupp.domLCongr (Finset.equivFin s) ≪≫ₗ Finsupp.linearEquivFunOnFinite R R _
+  exact ⟨s.card, Finsupp.total s.toSet M R Subtype.val ∘ₗ i.symm.toLinearMap, by simpa using hs⟩
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Finiteness.lean:584]: The original proof works fine here after some unfolding:
```suggestion
  have ⟨n, s, hs⟩ := exists_fin (R := R) (M := M)
  refine ⟨n, Basis.constr (Pi.basisFun R _) ℕ s, ?_⟩
  rw [← LinearMap.range_eq_top, Basis.constr_range, hs]
```

**Comment by eric-wieser** [comment]
bors d+

Thanks
